US09056844B2
Add 1M aqueous lithium hydroxide (4.0 mL, 4.0 mmol) to a solution of diethyl (1S,2R,3R,4S,5R,6S)-4-[(2-acetoxyacetyl)amino]-2-(tert-butoxycarbonylamino)-3-[(3,4-dichlorophenyl)methoxy]bicyclo[3.1.0]hexane-2,6-dicarboxylate (0.42 g, 0.67 mmol) in tetrahydrofuran (7.0 mL) at room temperature and stir overnight. Acidify the reaction to approximately pH 1 with 5N aqueous HCl. Extract with ethyl acetate (3×25 mL). Dry the combined organic layers, filter, and conc. under reduced pressure. HPLC analysis of crude reaction mixture shows starting material present. Add a 1M aqueous lithium hydroxide (4.0 mL, 4.0 mmol) to a solution of the crude reaction mixture in tetrahydrofuran (7.0 mL) and heat at 50° C. After 17 hours, acidify reaction to approximately pH 1 with 5N aqueous HCl. Extract with ethyl acetate (3×25 mL). Dry the combined extracts, filter, and conc. under reduced pressure. Purify by preparative reverse-phase high performance liquid chromatography using a gradient of 95% water (with 0.03% HCl)/5% acetonitrile to 5% water (with 0.03% HCl)/95% acetonitrile over 40 min. to provide (1S,2R,3R,4S,5R,6S)-2-(tert-butoxycarbonylamino)-3-[(3,4-dichlorophenyl)methoxy]-4-[(2-hydroxyacetyl)amino]bicyclo[3.1.0]hexane-2,6-dicarboxylic acid (0.181 g, 0.34 mmol, 51%) as a white solid. MS (m/z): 531 (M−H).

reactant | lithium hydroxide | 4.0 mmol, 1M, 4.0 mL | [OH-].[Li+]
reactant | diethyl (1S,2R,3R,4S,5R,6S)-4-[(2-acetoxyacetyl)amino]-2-(tert-butoxycarbonylamino)-3-[(3,4-dichlorophenyl)methoxy]bicyclo[3.1.0]hexane-2,6-dicarboxylate | 0.67 mmol, 0.42 g | C(C)(=O)OCC(=O)N[C@@H]1[C@H]([C@]([C@@H]2[C@H]([C@H]12)C(=O)OCC)(C(=O)OCC)NC(=O)OC(C)(C)C)OCC1=CC(=C(C=C1)Cl)Cl | C28H36Cl2N2O10
reactant | HCl | 5N | Cl | ClH
reactant | lithium hydroxide | 4.0 mmol, 1M, 4.0 mL | [OH-].[Li+]
reactant | HCl | 5N | Cl | ClH
solvent | tetrahydrofuran | 7.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7.0 mL | O1CCCC1 | C4H8O
product | (1S,2R,3R,4S,5R,6S)-2-(tert-butoxycarbonylamino)-3-[(3,4-dichlorophenyl)methoxy]-4-[(2-hydroxyacetyl)amino]bicyclo[3.1.0]hexane-2,6-dicarboxylic acid | 0.34 mmol, 0.181 g, 51% | C(C)(C)(C)OC(=O)N[C@@]1([C@@H]2[C@H]([C@@H]2[C@@H]([C@H]1OCC1=CC(=C(C=C1)Cl)Cl)NC(CO)=O)C(=O)O)C(=O)O | C22H26Cl2N2O9
